US07011838B2
Using 1.06 g of 3-(benzyloxy)benzaldehyde, 0.33 g of malononitrile, 8 ml of ethanol, 1.5 ml of water and 57 mg of sodium borohydride, and according to the process described in the REFERENCE PRODUCTION EXAMPLE 19, there was obtained 1.20 g of (3-(benzyloxy)benzyl)malononitrile (the intermediate (31)).

reactant | 3-(benzyloxy)benzaldehyde | 1.06 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | malononitrile | 0.33 g | C(CC#N)#N | C3H2N2
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | sodium borohydride | 57 mg | [BH4-].[Na+]
solvent | water | 1.5 ml | O | H2O
product | (3-(benzyloxy)benzyl)malononitrile | 1.20 g, Yield: 92% | C(C1=CC=CC=C1)OC=1C=C(CC(C#N)C#N)C=CC1 | C17H14N2O
